US08202858B2
5-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-pentanoic Acid Methyl Ester
WSCD (822 mg, 4.3 mmol) and DMAP (273 mg, 2.2 mmol) were added to a solution of 4-(4-methoxycarbonyl-butyl)-3-methyl-benzoic acid from Example E31 (571 mg, 2.3 mmol) and 3-methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene from Example E11 (424 mg, 2.1 mmol) in dichloromethane (50 ml) and triethylamine (0.6 ml, 4.3 mmol). The mixture was heated at reflux for 72 h, diluted with dichloromethane, washed with 0.3M KHSO4, saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; EtOAc to 5% triethyamine: 95% EtOAc) to yield the title compound (424 mg, 46%).

reactant | 4-(4-methoxycarbonyl-butyl)-3-methyl-benzoic acid | COC(=O)CCCCC1=C(C=C(C(=O)O)C=C1)C | C14H18O4
reactant | 3-methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene | CN1N=CC=2CNC3=C(NC12)C=CC=C3 | C11H12N4
reactant | triethylamine | 4.3 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 2.2 mmol, 273 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-pentanoic Acid Methyl Ester | 424 mg, 46% | COC(CCCCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C25H28N4O3
